US09416137B2
To a suspension of (4R,4aR,7aR,12bS)-3-methyl-1,2,3,4,4a,5,6,7a-octahydrospiro[4,12-methanobenzofuro[3,2-e]isoquinoline-7,2′-[1,3]dioxolane]-9-carbonitrile (5.0 g, 17.8 mmol) in dimethylformamide (50 mL) was added diisopropyl azodicarboxylate (5.4 mL, 27.5 mmol). The reaction was heated to 55° C. for 3 hours until the starting material was consumed. To the reaction was added dimedone (5.8 g, 41.4 mmol) and methanol (1.75 mL, 54.8 mmol) and the reaction heated to 60° C. for 3 hours. The reaction was allowed to cool to room temperature and poured into 0.5 M HCl(aq) (50 mL). The aqueous phase was washed with diethyl ether: ethyl acetate (3:1). The organic phase was back extracted with 0.5 M HCl(aq) and acidic phases combined before basifying with 2M NaOH until pH9. The aqueous phase was extracted with ethyl acetate (×3). The combined organic phases were washed with water/brine (×3) before drying over MgSO4 and concentrating under reduced pressure. The residue was purified by silica chromatography (5% methanol in dichloromethane to 5% NH3/methanol in dichloromethane) to give to (4R,4aR,7aR,12bS)-1,2,3,4,4a,5,6,7a-octahydrospiro[4,12-methanobenzofuro[3,2-e]isoquinoline-7,2′-[1,3]dioxolane]-9-carbonitrile as a pale yellow solid (3.90 g, 95% pure LCMS, 81% yield); [M+H]+ 325.1.

reactant | (4R,4aR,7aR,12bS)-3-methyl-1,2,3,4,4a,5,6,7a-octahydrospiro[4,12-methanobenzofuro[3,2-e]isoquinoline-7,2′-[1,3]dioxolane]-9-carbonitrile | 17.8 mmol, 5.0 g | CN1[C@H]2[C@@H]3CCC4(OCCO4)[C@H]4[C@]3(CC1)C1=C(O4)C(=CC=C1C2)C#N | C20H22N2O3
reactant | diisopropyl azodicarboxylate | 27.5 mmol, 5.4 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | dimedone | 41.4 mmol, 5.8 g | CC1(CC(=O)CC(=O)C1)C | C8H12O2
reactant | methanol | 54.8 mmol, 1.75 mL | CO | CH4O
reactant | HCl | 0.5 M, 50 mL | Cl | ClH
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | (4R,4aR,7aR,12bS)-1,2,3,4,4a,5,6,7a-octahydrospiro[4,12-methanobenzofuro[3,2-e]isoquinoline-7,2′-[1,3]dioxolane]-9-carbonitrile | 81% yield | O1C2(OCC1)[C@H]1[C@@]34CCN[C@@H]([C@@H]3CC2)CC2=CC=C(C(=C24)O1)C#N | C19H20N2O3
